US06156776
To a solution of 3-nitrobenzhydrazide (2.16 g, 11.92 mmol) in pyridine (40 ml) cooled to 0° C. in an ice bath is added dropwise p-toluoyl chloride (1.94 g, 11.92 mmol). The mixture is allowed to warm to room temperature and stirred for 12 hours. The mixture is quenched with 350 mL of water and stirred for thirty minutes. The precipitate is filtered and dried in a vacuum oven :o yield 1-[(4-methyl)benzoyl]-2-(3-nitrobenzoyl)hydrazine as a pale yellow solid. (2.94 g, 82%).

reactant | 3-nitrobenzhydrazide | 11.92 mmol, 2.16 g | [N+](=O)([O-])C=1C=C(C(=O)NN)C=CC1 | C7H7N3O3
reactant | p-toluoyl chloride | 11.92 mmol, 1.94 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(4-methyl)benzoyl]-2-(3-nitrobenzoyl)hydrazine | CC1=CC=C(C(=O)NNC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C15H13N3O4
